US04863929
1,1-diethyl-3-(2,3-dihydro-12-iodo-6-methyl-8α-ergolinyl)urea.
With iodine and 3-(13-bromo-1-tert-butyldimethylsilyl2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea:

reactant | iodine | II | I2
reactant | 3-(13-bromo-1-tert-butyldimethylsilyl2,3-dihydro-6-methyl-8α-ergolinyl)-1,1-diethylurea | BrC=1C=C2N(CC3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)C)[Si](C)(C)C(C)(C)C | C26H43BrN4OSi
product | 1,1-diethyl-3-(2,3-dihydro-12-iodo-6-methyl-8α-ergolinyl)urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3CNC4=CC=C(C([C@H]2C1)=C34)I)C)CC | C20H29IN4O
